US06511670B1
1.06 ml of a 30% solution of sodium methoxide in methanol were added dropwise, at room temperature, to a solution of 374 μl of 2-mercaptoethanol in 5 ml of anhydrous methanol, under an inert atmosphere. The mixture was maintained under stirring for 30 min and then added to a solution of 1.2 g of 1-chloro-2,5-tetradecadiyne in 6 ml of methanol, under an inert atmosphere. The mixture was maintained under stirring for 15 hours at room temperature and then the reaction medium was poured over 100 ml of acid water (98 ml of water+2 ml concentrated H2SO4) and then extracted 3 times with ethyl ether. The combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried (Na2SO4), filtered and concentrated under vacuum in a rotary evaporator. The oil thus obtained crystallized on cooling. It was purified by recrystallization from a heptane/pentane mixture and then from a heptane/pentane/diisopropyl ether mixture. 3-Thia-5,8-heptadecadiyn-1-ol was thus isolated in the form of pale yellow flakes with a yield of 61%.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-mercaptoethanol | 374 μl | SCCO | C2H6OS
reactant | 1-chloro-2,5-tetradecadiyne | 1.2 g | ClCC#CCC#CCCCCCCCC | C14H21Cl
reactant | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | 3-Thia-5,8-heptadecadiyn-1-ol | yield of 61% | C(CSCC#CCC#CCCCCCCCC)O | C16H26OS
